US04113871
By the reaction of ethyl α-methyl-4-(2-aminoethyl)-cinnamate hydrochloride (m.p. 270° C.) with 5-chloro-2-methoxybenzoyl chloride, there is obtained α-methyl-4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-cinnamic acid; m.p. 188°-191° C., after recrystallization from ethanol.

reactant | ethyl α-methyl-4-(2-aminoethyl)-cinnamate hydrochloride | Cl.CC(C(=O)OCC)=CC1=CC=C(C=C1)CCN
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | α-methyl-4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-cinnamic acid | CC(C(=O)O)=CC1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C20H20ClNO4
